US08686048B2
Intermediate 28: 5-(benzyloxy)-1,3-difluoro-2-nitrobenzene
Potassium carbonate (544 mg, 3.94 mmol) and benzyl alcohol (0.3 ml, 2.8 mmol) were added to a solution of 2,4,6-trifluoronitrobenzene (500 mg, 2.8 mmol) in DMF (5 ml). This mixture was stirred at RT overnight. Work up (EtOAc/H2O) afforded the title compound (521 mg) as a yellow liquid which was used in the next step without fuRTher purification.

reactant | Potassium carbonate | 3.94 mmol, 544 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl alcohol | 2.8 mmol, 0.3 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | 2,4,6-trifluoronitrobenzene | 2.8 mmol, 500 mg | FC1=C(C(=CC(=C1)F)F)[N+](=O)[O-] | C6H2F3NO2
reactant | EtOAc H2O | CCOC(=O)C.O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 5-(benzyloxy)-1,3-difluoro-2-nitrobenzene | 521 mg | C(C1=CC=CC=C1)OC=1C=C(C(=C(C1)F)[N+](=O)[O-])F | C13H9F2NO3
